US08227500B2
4-(tert-butyldiphenylsilanyloxymethyl)-1H-pyrrole-3-carbonitrile
To a suspension of sodium hydride (60%, 0.12 g) in diethyl ether (5 mL) were added a solution of 4-(tert-butyldiphenylsilanyloxy)-buta-2-ennitrile (0.81 g) and p-toluensulfonylmethylisocyanide (0.49 g) in diethyl ether (5 mL) and dimethylsulfoxide (5 mL). After stirring at room temperature for 5 hours, to this reaction mixture was added water and this reaction mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=60/40-39/61) to give the title compound (0.50 g).

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 4-(tert-butyldiphenylsilanyloxy)-buta-2-ennitrile | 0.81 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=CC#N | C20H23NOSi
reactant | p-toluensulfonylmethylisocyanide | 0.49 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | water | O | H2O
reactant | diethyl ether | 5 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 4-(tert-butyldiphenylsilanyloxymethyl)-1H-pyrrole-3-carbonitrile | 0.50 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=CNC1)C#N | C22H24N2OSi
